US05780498
A solution of methyl indole-4-carboxylate (1.1 g 6.2 mmol) and Eschenmoser's salt [N,N-dimethylmethyleneammonium iodide] (1.3 g, 7 mmol) in acetonitrile (15 ml) is refluxed for 3 hours. The reaction mixture is concentrated, redisolved in dichloromethane (400 ml) and washed with 1M sodium hydroxide (200 ml) and water (200 ml). The organic layer is dried over magnesium sulfate, filtered and concentrated. The resulting methyl 3-(dimethylaminomethyl)indole-4-carboxylate (1.2 g) is methylated with methyl iodide (0.7 ml) in a mixture of dichoromethane (25 ml) and ether (13 ml). The reaction mixture is concentrated, the product dissolved in DMSO (7 ml) and treated with potassium cyanide (700 mg, 10 mmol). After stirring at r.t. overnight the reaction mixture is diluted with ethyl acetate (200 ml) and washed with three portions of water (100 ml). The organic layer is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude material is chromatographed on silica with ethyl acetate/hexane 2:3 to give methyl 3-(cyanomethyl)indole-4-carboxylate as a dark oil. Hydrogenation in acetic acid over platinum oxide gives the desired intermediate as an orange solid.

reactant | methyl indole-4-carboxylate | 6.2 mmol, 1.1 g | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | Eschenmoser's salt | 7 mmol, 1.3 g | C[N+](=C)C.[I-]
reactant | potassium cyanide | 10 mmol, 700 mg | [C-]#N.[K+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3-(cyanomethyl)indole-4-carboxylate | C(#N)CC1=CNC=2C=CC=C(C12)C(=O)OC | C12H10N2O2
